US04169899
A mixture of 10 g of N-(p-chlorobenzoyl)-S-(2-dimethylaminoethylthiocarbamoyl)-penicillamine, 2 g of glacial acetic acid and 100 ml of chloroform is stirred under reflux for 5 hours. The solvent is then removed under reduced pressure, and the crude product is recrystallized from a mixture of ethyl acetate and isopropyl ether to give 5-(p-chlorobenzamido)-3-(2-dimethylaminoethyl)-6,6-dimethyl-2-thioxo-tetrahydro-2H-1,3-thiazin-4-one as pale yellow crystals, melting at 152°-153° C.

reactant | N-(p-chlorobenzoyl)-S-(2-dimethylaminoethylthiocarbamoyl)-penicillamine | 10 g | ClC1=CC=C(C(=O)N[C@@H](C(C)(C)SC(NCCN(C)C)=S)C(=O)O)C=C1 | C17H24ClN3O3S2
reactant | acetic acid | 2 g | C(C)(=O)O | C2H4O2
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-(p-chlorobenzamido)-3-(2-dimethylaminoethyl)-6,6-dimethyl-2-thioxo-tetrahydro-2H-1,3-thiazin-4-one | ClC1=CC=C(C(=O)NC2C(N(C(SC2(C)C)=S)CCN(C)C)=O)C=C1 | C17H22ClN3O2S2
